US06333425B1
To 18.11 g (100 mmoles) of 6-bromo-1-hexanol and 11.22 g (100 mmoles) of DABCO in 100 ml of anhydrous THF at −20° C., there is slowly added 19.06 g (100 mmoles) of tosyl chloride. After 24 hours under stirring at −20° C., the reaction mixture was filtered to remove the precipitate of DABCO hydrochloride. After evaporation of the solvent, a quantitative amount of 6-bromo-1-hexanol tosylate CH3FSO2O(CH2)6Br was recovered. This compound was thereafter dissolved in 20 ml of THF with 40 g of aniline FNH2 (200 mmoles) and this solution was heated to reflux overnight. After cooling, 300 ml of water were added and the organic phase was extracted with ether. After washing with water, the ether phase was dried with magnesium sulfate. After evaporation and drying, 23 g of N-(6-bromohexyl)aniline was obtained.

reactant | 6-bromo-1-hexanol | 100 mmoles, 18.11 g | BrCCCCCCO | C6H13BrO
reactant | DABCO | 100 mmoles, 11.22 g | C1CN2CCN1CC2 | C6H12N2
reactant | tosyl chloride | 100 mmoles, 19.06 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | water | 300 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(6-bromohexyl)aniline | 23 g | BrCCCCCCNC1=CC=CC=C1 | C12H18BrN
